US07691850B2
(g) 2-((3R)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)-2-propanamine
To a solution of 1,1-dimethylethyl[1-((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)-1-methylethyl]carbamate (0.46 g, 1.06 mmol) in DCM (10 mL) at 25° C. was added dropwise an HCl solution (4.22 mL, 4.24 mmol, 1M HCl in dioxane). After 24 h, the solution was concentrated to afford the hydrochloride salt of the title compound as an off-white residue (0.43 g, quantit.), which was used without further purification: LC/MS (ES) m/e 333 (M+H)+.

reactant | 1,1-dimethylethyl[1-((3S)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)-1-methylethyl]carbamate | 1.06 mmol, 0.46 g | CC(C)(C)N(C([O-])=O)C(C)(C)[C@@H]1CN(CC1)CCC1=C(C=NC2=CC=C(N=C12)OC)F
reactant | HCl | 4.24 mmol, 1M, 4.22 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((3R)-1-{2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)-2-propanamine | FC=1C=NC2=CC=C(N=C2C1CCN1C[C@@H](CC1)C(C)(C)N)OC | C18H25FN4O
